US06610747B2
(i) Preparation of [4-(allyloxy)-2-(hydroxymethyl)phenyl]methanol
Dimethyl 4-(allyloxy)phthalate [prepared according to Inouye, M.; Tsuchiya, K.; Kitao, T. Angew. Chem. 1992, 104, 198-200 (See also Angew. Chem., Int. Ed. Engl, 1992, 204-205)] (9.9 g, 38 mmol) was dissolved in THF (40 mL) and cooled to 0° C. before the dropwise addition of lithium aluminium hydride (1M in THF, 77 mL, 77 mmol) over 10 min. The mixture was then allowed to stir at room temperature for 3 h before being quenched cautiously by the addition of water (1.4 mL) followed by 2M NaOH (1.4 mL). Excess MgSO4 was then added followed by water until a granular precipitate formed (ca. 5 mL). The mixture was then filtered and evaporated to a brown oil (7.1 g, ca. 95%). 1H NMR showed the material to be of ca. 85% purity. It was used directly in the next stage without further purification; δH (CDCl3, 400 MHz) 2.63 (1H, brs), 2.91 (1H, brs), 4.52 (2H, m), 4.67 (4H, m), 5.26 (1H, dd), 5.38 (1H, dd), 5.97-6.09 (1H, m), 6.80 (1H, dd), 6.92 (1H, d), 7.22 (1H, d).

reactant | Dimethyl 4-(allyloxy)phthalate | C(C=C)OC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C13H14O5
reactant | lithium aluminium hydride | 77 mmol, 1M, 77 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | [4-(allyloxy)-2-(hydroxymethyl)phenyl]methanol | C(C=C)OC1=CC(=C(C=C1)CO)CO | C11H14O3
